US06841569B2
Preparation of (2-(5-nitro-2-thienyl)-2-carbamoyloxyethyl)oxocarboxamide.
In 4 ml of acetic anhydride there was suspended (2-(2-thienyl)-2-carbamoyloxyethyl)oxocarboxamide (0.50 g) and the resulting mixture was cooled to 0°. A mixture of nitric acid (60% in water 0.37 g) in 4 ml of acetic acid was added dropwise and the mixture was stirred at room temperature for 1.5 hours, poured into 100 ml of ice water, extracted with ethyl acetate and washed with saturated brine. The extracts were dried over sodium sulfate, filtered, concentrated and purified by recrystallization from ether to yield the title compound as a yellow solid (0.07 g, yield 12%). M.p. 145-1847 (from ether).

reactant | (2-(2-thienyl)-2-carbamoyloxyethyl)oxocarboxamide | 0.50 g | S1C(=CC=C1)C(CC(=O)N=O)OC(N)=O | C8H8N2O4S
reactant | nitric acid | 0.37 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | (2-(5-nitro-2-thienyl)-2-carbamoyloxyethyl)oxocarboxamide | 0.07 g, yield 12% | [N+](=O)([O-])C1=CC=C(S1)C(CC(=O)N=O)OC(N)=O | C8H7N3O6S
